US07812047B2
(R)-4-Benzyl-4,5-dihydro-1H-imidazole or tautomer
To a solution of (2R)-3-phenyl-1,2-propanediamine (0.20 g, 1.33 mmol) in ethanol (5 ml) was added formamidine acetate (0.15 g, 1.45 mmol) and the mixture was stirred overnight at room temperature. The solvent was evaporated, sodium hydroxide (2N, 5 ml) was added and the mixture was extracted 3 times with dichloromethane (10 ml). The combined organic layers were dried over magnesium sulfate and evaporated. The residue was purified by chromatography (column: Isolute® Flash-NH2 from Separtis; eluent:ethyl acetate/methanol=90:10) to yield a colorless oil (0.20 g, 92%); MS (ISP): 161.4 ((M+H)+).

reactant | (2R)-3-phenyl-1,2-propanediamine | 1.33 mmol, 0.20 g | C1(=CC=CC=C1)C[C@H](CN)N | C9H14N2
reactant | formamidine acetate | 1.45 mmol, 0.15 g | C(C)(=O)O.C(=N)N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (R)-4-Benzyl-4,5-dihydro-1H-imidazole | 0.20 g, 92% | C(C1=CC=CC=C1)[C@H]1N=CNC1 | C10H12N2
